US07253165B2
Synthesis of 2-{4-[3-(4-benzo[b]thiophen-3-yl-phenoxy)-propyl]-piperazin-1-yl}-pyrimidine (Scheme III, Compound 1b)
The title compound is prepared from 3-[4-(3-bromo-propoxy)-phenyl]-benzo[b]thiophene, 1-(2-pyrimidyl)piperazine, potassium carbonate and acetonitrile essentially as described above in Example 118. Purity by LC/MS=99%, [M+H]+=431.

reactant | 3-[4-(3-bromo-propoxy)-phenyl]-benzo[b]thiophene | BrCCCOC1=CC=C(C=C1)C=1C2=C(SC1)C=CC=C2 | C17H15BrOS
reactant | 1-(2-pyrimidyl)piperazine | N1=C(N=CC=C1)N1CCNCC1 | C8H12N4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-{4-[3-(4-benzo[b]thiophen-3-yl-phenoxy)-propyl]-piperazin-1-yl}-pyrimidine | S1C2=C(C(=C1)C1=CC=C(OCCCN3CCN(CC3)C3=NC=CC=N3)C=C1)C=CC=C2 | C25H26N4OS
